### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace/Projection): define `Submodule.starProjection`

### PR DESCRIPTION
**Pull request by themathqueen**
This defines `Submodule.starProjection`, the orthogonal projection onto a subspace as a map from the full space to itself, as opposed to `Submodule.orthogonalProjection`, which maps into the subtype. This
version is important as it satisfies `IsStarProjection`.

Lemma: an operator is a star projection iff it is an orthogonal projection (i.e., `IsStarProjection p` iff `p = (LinearMap.range p).starProjection`).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by j-loreaux — COMMENTED** [review]
Thanks for recognizing this gap in the API. However, I don't think we should fill it this way. What I mean is that I think we should develop a general `IsStarIdempotent` or `IsStarProjection` (name TBD) which is a `Prop`-valued structure with fields `idempotent : p * p = p` and `star_eq : star p = p`. Then, we would have that in *any* `StarOrderedRing`, `p.IsStarProjection → 0 ≤ p`. I realize that this doesn't quite yield `p.IsPositive` in your context because we don't have a `StarOrderedRing` instance on `E →L[𝕜] E` yet (but we should eventually!). So for now you could add a `p.IsStarProjection → p.IsPositive` with a note saying that this should eventually be removed in favor of the `0 ≤ p` spelling. You could also prove that `p.IsStarProjection ↔ p = (LinearMap.range p).subtypeL ∘L (LinearMap.range p).orthogonalProjection`. Of course, this plan would no longer constitute a single PR.

Are you interested in this undertaking?

**Comment by themathqueen** [comment]
@j-loreaux, I can do this, yeah. What should I do with this PR though?

My plan after this was:
- have a `Prop`-valued structure `ContinuousLinearMap.IsOrthogonalProjection` with fields `idempotent: IsIdempotentElem p` and `_ : LinearMap.ker p = (LinearMap.range p)ᗮ`
- then for an idempotent operator `p`, we have TFAE: `0 ≤ p, p.IsOrthogonalProjection, IsSelfAdjoint p`
- and then more cool results from those, such as: `U.subtypeL ∘L U.orthogonalProjection ≤ V.subtypeL ∘L V.orthogonalProjection` iff `U ≤ V`

**Comment by j-loreaux** [comment]
> What should I do with this PR though?

This can become the PR which links the new `IsStarProjection` predicate to continuous linear maps.

> * have a `Prop`-valued structure `ContinuousLinearMap.IsOrthogonalProjection` with fields `idempotent: IsIdempotentElem p` and `_ : LinearMap.ker p = (LinearMap.range p)ᗮ`

I wouldn't make a new `Prop`-valued structure, but instead just make an `↔` lemma with this variant condition.

> * then for an idempotent operator `p`, we have TFAE: `0 ≤ p, p.IsOrthogonalProjection, IsSelfAdjoint p`

sure, if you change that to `IsStarProjection`, maybe.

> * and then more cool results from those, such as: `U.subtypeL ∘L U.orthogonalProjection ≤ V.subtypeL ∘L V.orthogonalProjection` iff `U ≤ V`

I think you'll want to turn `U.subtypeL ∘L U.orthogonalProjection` into a new `def` (maybe `Submodule.starProjection : E →[𝕜] E`?) and relate things to that.

**Comment by themathqueen** [comment]
@j-loreaux, I've added `IsStarProjection` and everything. Is this what you meant and had in mind? Should I move the definition to `Algebra.Order.Star.Projection` or something?

For,
> p.IsStarProjection ↔ p = (LinearMap.range p).subtypeL ∘L (LinearMap.range p).orthogonalProjection

`IsStarProjection.eq_orthogonalProjection` has the -> part, and `orthogonalProjection_isStarProjection` has the <- part. I can't make this into an iff tho, since `Submodule.orthogonalProjection` depends on `Submodule.HasOrthogonalProjection`

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 1]
```diff
@@ -206,6 +206,98 @@ end PartialOrder
...
+  simp_rw [reApplyInnerSelf_apply, ContinuousLinearMap.mul_apply]
+  intro x
+  simp_rw [← ContinuousLinearMap.adjoint_inner_right _ _ x, isSelfAdjoint_iff'.mp hp.isSelfAdjoint]
+  exact inner_self_nonneg
+
+theorem ContinuousLinearMap.ker_eq_ortho_adjoint_range {V W : Type*}
+  [NormedAddCommGroup V] [NormedAddCommGroup W]
+  [InnerProductSpace 𝕜 V] [InnerProductSpace 𝕜 W]
+  [CompleteSpace V] [CompleteSpace W] (T : V →L[𝕜] W) :
+    ker T = (range (adjoint T))ᗮ := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: Note that we have [ContinuousLinearMap.orthogonal_range](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/Adjoint.html#ContinuousLinearMap.orthogonal_range) so, I don't think this one is necessary.

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 2]
```diff
@@ -206,6 +206,98 @@ end PartialOrder
 
 end ContinuousLinearMap
 
+/-- a star projection is an idempotent and self-adjoint element -/
+structure IsStarProjection {M : Type*} [Mul M] [Star M] (p : M) : Prop where
+  isIdempotentElem : IsIdempotentElem p
+  isSelfAdjoint : IsSelfAdjoint p
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: I think personally I would rather see:
```suggestion
structure IsStarProjection {M : Type*} [Mul M] [Star M] (p : M) : Prop where
  protected mul_self : p * p = p
  protected star_eq : star p = p
```
and then
```lean
lemma IsStarProjection.isSelfAdjoint (hp : IsStarProjection p) : IsSelfAdjoint p := hp.star_eq

lemma IsStarProjection.isIdempotentElem (hp : IsStarProjection p) : IsIdempotentElem p := hp.mul_self
```
because then when you go to *prove* `IsStarProjection p`, you don't have to do any rewriting, but you still have access to the versions with dot notation when you have it as a hypothesis.

And yes, this should definitely be somewhere down low like `Algebra.Star.SelfAdjoint` or something (I don't remember the file structure).

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 3]
```diff
@@ -206,6 +206,98 @@ end PartialOrder
...
+
+/-- a star projection is non-negative in a star-ordered ring -/
+theorem IsStarProjection.nonneg {M : Type*} [NonUnitalSemiring M] [PartialOrder M]
+  [StarRing M] [StarOrderedRing M] {p : M}
+  (hp : IsStarProjection p) : 0 ≤ p :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: Likewise this can live in `Algebra.Order.Star` or something.

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 4]
```diff
@@ -206,6 +206,98 @@ end PartialOrder
...
+  ext
+  simp_rw [Submodule.mem_orthogonal, mem_range, mem_ker,
+    forall_exists_index, forall_apply_eq_imp_iff,
+    ContinuousLinearMap.adjoint_inner_left]
+  exact ⟨fun h => by simp_rw [h, inner_zero_right, forall_const],
+    fun h => inner_self_eq_zero.mp (h _)⟩
+
+theorem IsStarProjection.ker_eq_ortho_adjoint_range
+  [CompleteSpace E] {p : E →L[𝕜] E} (hp : IsStarProjection p) :
+    LinearMap.ker p = (LinearMap.range p)ᗮ :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: Maybe you can just rewrite this into a generic `IsSymmetric` or `IsSelfAdjoint` lemma for continuous linear maps?

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 5]
```diff
@@ -206,6 +206,98 @@ end PartialOrder
...
+by
+  rw [← hp.isIdempotentElem]
+  nth_rw 1 [← hp.isSelfAdjoint]
+  exact star_mul_self_nonneg p
+
+-- this will be removed in the future when we have `StarOrderedRing (E →L[𝕜] E)`
+-- as this is just `IsStarProjection.nonneg`
+/-- a star projection operator is positive -/
+theorem isStarProjection_isPositive [CompleteSpace E] {p : E →L[𝕜] E}
+  (hp : IsStarProjection p) : 0 ≤ p :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: Maybe the comment should be:
1. located in the docstring so it doesn't get lost or forgotten
2. instead say not that it will be removed, but that the proof can be simplified when the `StarOrderedRing` instance exists

and the conclusion should be `p.IsPositive`.

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 6]
```diff
@@ -206,6 +206,98 @@ end PartialOrder
...
+    fun h => inner_self_eq_zero.mp (h _)⟩
+
+theorem IsStarProjection.ker_eq_ortho_adjoint_range
+  [CompleteSpace E] {p : E →L[𝕜] E} (hp : IsStarProjection p) :
+    LinearMap.ker p = (LinearMap.range p)ᗮ :=
+by rw [ContinuousLinearMap.ker_eq_ortho_adjoint_range, hp.isSelfAdjoint.adjoint_eq]
+
+theorem IsStarProjection.range_hasOrthogonalProjection
+  [CompleteSpace E] {p : E →L[𝕜] E} (hp : IsStarProjection p) :
+    (LinearMap.range p).HasOrthogonalProjection :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]:
```suggestion
theorem IsStarProjection.hasOrthogonalProjection_range
  [CompleteSpace E] {p : E →L[𝕜] E} (hp : IsStarProjection p) :
    (LinearMap.range p).HasOrthogonalProjection :=
```

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 7]
```diff
@@ -206,6 +206,98 @@ end PartialOrder
...
+  intro v
+  use p v
+  simp only [mem_range, exists_apply_eq_apply, true_and]
+  rw [← hp.ker_eq_ortho_adjoint_range]
+  simp_rw [mem_ker, map_sub, ← ContinuousLinearMap.mul_apply, hp.isIdempotentElem.eq, sub_self]
+
+lemma IsStarProjection.eq_orthogonalProjection
+  [CompleteSpace E] {p : E →L[𝕜] E} (hp : IsStarProjection p) :
+  letI := hp.range_hasOrthogonalProjection
+  p = (LinearMap.range p).subtypeL ∘L (LinearMap.range p).orthogonalProjection :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: The iff version would be:
```
IsStarProjection p ↔ ∃ _ : HasOrthogonalProjection p, p = _ ∘L _`
```
where the latter two `_` are filled in suitably.

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 8]
```diff
@@ -206,6 +206,98 @@ end PartialOrder
...
+    mem_ker, map_sub, ← mul_apply, hp.isIdempotentElem.eq, sub_self]
+
+/-- an idempotent operator is positive if and only if it is self-adjoint -/
+theorem IsIdempotentElem.isPositive_iff_isSelfAdjoint [CompleteSpace E] {p : E →L[𝕜] E}
+  (hp : IsIdempotentElem p) : 0 ≤ p  ↔ IsSelfAdjoint p :=
+⟨fun h => (p.nonneg_iff_isPositive.mp h).1, fun h => isStarProjection_isPositive ⟨hp, h⟩⟩
+
+theorem orthogonalProjection_isIdempotentElem (U : Submodule 𝕜 E)
+  [U.HasOrthogonalProjection] :
+    IsIdempotentElem (U.subtypeL ∘L U.orthogonalProjection) :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: I wouldn't prove this separately from the result below, and you should still probably make `U.subtypeL ∘L U.orthogonalProjection` into its own `def`.

**Review by j-loreaux — COMMENTED** [review]
I hinted at this before, but I'll make it more explicit:

1. This should really be two separate (or perhaps even more) PRs.
2. The first one should just be about generic star magmas (/semigroups/monoid/rings what have you). For instance, you should have a `IsStarProjection p ↔ IsStarProjection (1 - p)` in that generality. Of course, there's also `IsStarProjection 0`, `IsStarProjection 1`, and a version for `p + q` that takes `p * q = 0` as a hypothesis. There's probably other generic results to be had here.
3. The second one provides the new `def` for `K.subtypeL ∘ K.orthogonalProjection` and links this to the `IsStarProjection` predicate, along with whatever other results we want to have there. I would probably call this: `Submodule.starProjection`.

Also, please have a look at the style guidelines, as there are a number of violations here (especially indentation and where to place `by`). The form is:
```lean
lemma my_fancy_lemma (a : foo) ....
	... (b : bar) :
	conlusion := by
  tactic1
  tactic2
```
Note the 4-space indent for the subsequent lines of the lemma statement. The conclusion isn't required to go on a separate line, but if it doesn't fit on the very first one, I often put it on it's own. The `by` gets placed at the end of the preceding line, and then 2-space indent for the body.

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 9]
```diff
@@ -289,20 +289,71 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
...
+    symm
+    simp only [Submodule.starProjection,
+      ContinuousLinearMap.coe_comp', Submodule.coe_subtypeL',
+        Submodule.coe_subtype, Function.comp_apply, SetLike.coe_eq_coe]
+    rw [← sub_eq_zero, ← ContinuousLinearMap.map_sub,
+      Submodule.orthogonalProjection_eq_zero_iff, ← hp.isSelfAdjoint.ker_eq_ortho_range,
+      LinearMap.mem_ker, map_sub, ← ContinuousLinearMap.mul_apply, hp.isIdempotentElem.eq, sub_self]
+  · rintro ⟨h, hp⟩
+    rw [hp]
+    exact orthogonalProjection_isStarProjection
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: @j-loreaux, should I move this to a separate pr? Also, should this go on its own file, something like `Analysis.InnerProductSpace.StarProjection`? Then all lemmas concerning this would go there?

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 10]
```diff
@@ -289,20 +289,71 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
...
   U.orthogonalProjection_isSymmetric.isSelfAdjoint
 
 theorem conj_orthogonalProjection {T : E →L[𝕜] E} (hT : IsSelfAdjoint T) (U : Submodule 𝕜 E)
-    [CompleteSpace U] :
+    [U.HasOrthogonalProjection] :
     IsSelfAdjoint
       (U.subtypeL ∘L U.orthogonalProjection ∘L T ∘L U.subtypeL ∘L U.orthogonalProjection) := by
   rw [← ContinuousLinearMap.comp_assoc]
   nth_rw 1 [← (orthogonalProjection_isSelfAdjoint U).adjoint_eq]
   exact hT.adjoint_conj _
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: Notice that both of these are really results about `Submodule.starProjection` (so it should come after that result). The first just says that it's selfadjoint (which we should have and it should be marked `@[simp]`). The second is really saying `U.starProjection.adjoint ∘ T ∘ U.starProjection` is selfadjoint, which is no longer necessary, as that's now just a direct consequence of [IsSelfAdjoint.conjugate'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Star/SelfAdjoint.html#IsSelfAdjoint.conjugate').

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 11]
```diff
@@ -289,20 +289,71 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
...
 
+theorem ker_eq_ortho_range
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: But it's up for debate whether this should take `IsSelfAdjoint` or `LinearMap.IsSymmetric` as a hypothesis. I would kind of argue for the latter because this is a result specific to linear maps, not generically about star operations.
```suggestion
theorem IsSelfAdjoint.ker_eq_orthogonal_range
```

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 12]
```diff
@@ -289,20 +289,71 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
...
+    {p : E →L[𝕜] E} (hp : IsSelfAdjoint p) : LinearMap.ker p = (LinearMap.range p)ᗮ := by
+  rw [ContinuousLinearMap.orthogonal_range, hp.adjoint_eq]
+
 end IsSelfAdjoint
 
+theorem IsStarProjection.hasOrthogonalProjection_range [CompleteSpace E]
+    {p : E →L[𝕜] E} (hp : IsStarProjection p) : (LinearMap.range p).HasOrthogonalProjection := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: I think what you want to prove is that if `p` is a star-projection, then the range is closed, from which this follows immediately. But for now, you can simply get this from the previous result using [Submodule.isClosed_orthogonal](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/Orthogonal.html#Submodule.isClosed_orthogonal).

In fact, what I would really like to say is that `p` is an isometry on the orthogonal complement of its kernel, but right now we don't really have the appropriate language fo that. (For instance, we don't have `AntilipschitzOnWith` or `IsometryOn` or `PartialIsometry` or anything like that.)

If we had `AntilipschitzOnWith`, then we could prove that a continuous linear map which is antilipschitz on the orthogonal complement of its kernel has closed range. That is, a more general version of [AntilipschitzWith.isClosed_range](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/MetricSpace/Antilipschitz.html#AntilipschitzWith.isClosed_range).

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 13]
```diff
@@ -289,20 +289,71 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
...
+  constructor
+  intro v
+  use p v
+  simp only [LinearMap.mem_range, exists_apply_eq_apply, true_and]
+  rw [← hp.isSelfAdjoint.ker_eq_ortho_range]
+  simp_rw [LinearMap.mem_ker, map_sub, ← ContinuousLinearMap.mul_apply,
+    hp.isIdempotentElem.eq, sub_self]
+
+/-- The orthogonal projection onto a subspace as an operator, so is a star projection. -/
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: It occurs to me that the definition (but not some of the properties, like `IsStarProjection`), could still go in the `Projection` file, as they don't require the definition of the adjoint.

Please transfer as many basic results to that file as is possible. In addition, please add a note to the docstring of `Submodule.orthogonalProjection` linking to this definition to aid discoverability.
```suggestion
/-- The orthogonal projection onto a subspace as a map from the full space to itself,
as opposed to `Submodule.orthogonalProjection`, which maps into the subtype. This
version is important as it satisfies `IsStarProjection`. -/
```

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 14]
```diff
@@ -289,20 +289,71 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
...
+noncomputable def Submodule.starProjection (U : Submodule 𝕜 E) [U.HasOrthogonalProjection] :
+    E →L[𝕜] E := U.subtypeL ∘L U.orthogonalProjection
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: There are some basic results missing, like `ContinuousLinearMap.id - U.starProjection = Uᗮ.starProjection`.

Other missing results include `(⊥ : Submodule 𝕜 E).starProjection = 0` or `(⊤ : Submodule 𝕜 E).starProjection = ContinuousLinearMap.id`.

(Note: I'm not sure whether it's better to use `1` or `id` for results around `starProjection`. I suspect the latter, but I don't know for sure. It may be context dependent.)

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean (hunk 9 above)
Comment (j-loreaux) [reply Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: some things should definitely move (but see my comments as to where), but I think the remaining bits can live here.

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 15]
```diff
@@ -288,20 +288,71 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
...
+theorem _root_.LinearMap.IsSymmetric.ker_eq_orthogonal_range
+    {p : E →ₗ[𝕜] E} (hp : LinearMap.IsSymmetric p) : LinearMap.ker p = (LinearMap.range p)ᗮ := by
+  ext x
+  simp only [LinearMap.mem_ker, Submodule.mem_orthogonal, LinearMap.mem_range, forall_exists_index,
+    forall_apply_eq_imp_iff, hp _ x]
+  constructor
+  · intro h a
+    rw [h, inner_zero_right]
+  · intro h
+    simpa only [inner_self_eq_zero] using h (p x)
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: A few notes:
1. With the other changes I suggest below, this isn't necessary.
2. If we were going to have this it belongs in a different file.
3. The name should match the `ContinuousLinearMap` version, and here's a golf
```suggestion
theorem _root_.LinearMap.IsSymmetric.orthogonal_range
    {p : E →ₗ[𝕜] E} (hp : LinearMap.IsSymmetric p) : (LinearMap.range p)ᗮ = LinearMap.ker p := by
  ext x
  constructor
  · simpa [Submodule.mem_orthogonal, hp _ x] using ext_inner_left 𝕜 (x := p x) (y := 0)
  · simp_all [Submodule.mem_orthogonal, hp _ x]
```

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 16]
```diff
@@ -288,20 +288,71 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
...
+    ← ContinuousLinearMap.mul_apply, hp.isIdempotentElem.eq, sub_self]
+
+/-- `U.starProjection` is a star projection. -/
+theorem orthogonalProjection_isStarProjection [CompleteSpace E] {U : Submodule 𝕜 E}
+    [U.HasOrthogonalProjection] : IsStarProjection U.starProjection := by
+  refine ⟨?_, orthogonalProjection_isSelfAdjoint U⟩
+  ext
+  simp_rw [Submodule.starProjection,
+    ContinuousLinearMap.mul_apply, ContinuousLinearMap.comp_apply, Submodule.subtypeL_apply,
+    Submodule.orthogonalProjection_mem_subspace_eq_self]
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]:
```suggestion
@[simp]
theorem orthogonalProjection_isStarProjection [CompleteSpace E] {U : Submodule 𝕜 E}
    [U.HasOrthogonalProjection] : IsStarProjection U.starProjection :=
  ⟨by ext; simp [Submodule.starProjection], orthogonalProjection_isSelfAdjoint U⟩
```

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 17]
```diff
@@ -288,20 +288,71 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
...
+        Submodule.coe_subtype, Function.comp_apply, SetLike.coe_eq_coe]
+    have : LinearMap.range p = LinearMap.range (p.toLinearMap) := rfl
+    rw [← sub_eq_zero, ← ContinuousLinearMap.map_sub,
+      Submodule.orthogonalProjection_eq_zero_iff, this,
+      ← hp.isSelfAdjoint.isSymmetric.ker_eq_orthogonal_range,
+      LinearMap.mem_ker, map_sub, ContinuousLinearMap.coe_coe,
+      ← ContinuousLinearMap.mul_apply, hp.isIdempotentElem.eq, sub_self]
+  · rintro ⟨h, hp⟩
+    rw [hp]
+    exact orthogonalProjection_isStarProjection
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: The key lemma you want here is `Submodule.eq_orthogonalProjection_of_mem_orthogonal`, and note that since `p` is a continuous linear map, we can just use `ContinuousLinearMap.orthogonal_range`, instead of the version you had before.

Also, `letI` doesn't mean the same thing it did in Lean 3. It now means "inline". In this case, it's not data, so we can use `have` instead of `let`, and we don't need to inline.

Note that `congr` is a cool trick to build terms. In this case, I'm using it to build the term `(p * (1 - p)) x = 0 x`, which `simp` can then use to close the goal.
```suggestion
  refine ⟨fun hp ↦ ?_, fun ⟨h, hp⟩ ↦ hp ▸ orthogonalProjection_isStarProjection⟩
  have := hp.hasOrthogonalProjection_range
  refine ⟨this, Eq.symm ?_⟩
  ext x
  refine Submodule.eq_orthogonalProjection_of_mem_orthogonal (by simp) ?_
  simpa [p.orthogonal_range, hp.isSelfAdjoint.isSymmetric]
    using congr($(hp.isIdempotentElem.mul_one_sub_self) x)
```

**Review by j-loreaux — COMMENTED** [review]
In the `Projection` file, I recommend:

1. moving the definition of `Submodule.starProjection` much further up, probably immediately after (or very close) to the definition of `Submodule.orthogonalProjection`.
2. Finding all the (many!) occurrences of `(K.orthogonalProjection v : E)` (or the implicit coercions, like `K.orthogonalProjection v - u`), and replace them all with `Submodule.starProjection v`. This will likely entail renaming many lemmas and adding deprecations, so this is not a particularly small task.

Hopefully nothing much breaks downstream. If it does, ping me and we'll look for the best way to deal with the fallout. I suspect that one way to deal with it, if there is any, would be to add a `simp` lemma which rewrites `↑(K.orthgonalProjection v)` to `K.starProjection v`.

Most likely, this task will result in the material in the `Adjoint` and `Positive` files being to much to fit inside this PR (so it will probably be yet another PR), sorry! But I very much appreciate the work you're doing here, as it has needed to be done for a while and I rarely have the time.

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 18]
```diff
@@ -288,20 +288,71 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
...
+theorem IsStarProjection.hasOrthogonalProjection_range [CompleteSpace E]
+    {p : E →L[𝕜] E} (hp : IsStarProjection p) : (LinearMap.range p).HasOrthogonalProjection := by
+  constructor
+  intro v
+  use p v
+  simp only [LinearMap.mem_range, exists_apply_eq_apply, true_and]
+  have : LinearMap.range p = LinearMap.range (p.toLinearMap) := rfl
+  rw [this, ← hp.isSelfAdjoint.isSymmetric.ker_eq_orthogonal_range]
+  simp_rw [LinearMap.mem_ker, map_sub, ContinuousLinearMap.coe_coe,
+    ← ContinuousLinearMap.mul_apply, hp.isIdempotentElem.eq, sub_self]
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: Somehow my comment here got deleted during review. Here's a nicer proof that adds some API I think we're missing (which belongs in other files):
```lean
-- I'm surprised we don't have anything like this already. Maybe I missed it.
theorem LinearMap.IsIdempotentElem.range_eq_ker {p : E →ₗ[𝕜] E} (hp : IsIdempotentElem p) :
    LinearMap.range p = LinearMap.ker (1 - p) :=
  le_antisymm
    (LinearMap.range_le_ker_iff.mpr hp.one_sub_mul_self)
    fun x hx ↦ ⟨x, by simpa [sub_eq_zero, eq_comm (a := x)] using hx⟩

open LinearMap in
theorem ContinuousLinearMap.IsIdempotentElem.range_eq_ker {p : E →L[𝕜] E}
    (hp : IsIdempotentElem p) : LinearMap.range p = LinearMap.ker (1 - p) :=
  have hp' : IsIdempotentElem (LinearMapClass.linearMap p) :=
    congr(LinearMapClass.linearMap $(hp.eq))
  hp'.range_eq_ker

open ContinuousLinearMap in
theorem ContinuousLinearMap.IsIdempotentElem.isClosed_range {p : E →L[𝕜] E}
    (hp : IsIdempotentElem p) : IsClosed (LinearMap.range p : Set E) :=
  hp.range_eq_ker ▸ ContinuousLinearMap.isClosed_ker (1 - p)
```
```suggestion
open ContinuousLinearMap in
theorem IsStarProjection.hasOrthogonalProjection_range [CompleteSpace E]
    {p : E →L[𝕜] E} (hp : IsStarProjection p) : (LinearMap.range p).HasOrthogonalProjection :=
  have := hp.isIdempotentElem.isClosed_range.completeSpace_coe
  .ofCompleteSpace _
```

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean (hunk 15 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: might be useful, I'll move this to `Analysis/InnerProductSpace/Symmetric`

**Comment by themathqueen** [comment]
@j-loreaux, I'll replace all the occurrences of `(K.orthogonalProjection v : E)` (and renaming lemmas and so on) in another pr after this one :)

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 19]
```diff
@@ -288,20 +288,38 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
     (hA : (A : E →ₗ[𝕜] E).IsSymmetric) : IsSelfAdjoint A := by
   rwa [← ContinuousLinearMap.isSelfAdjoint_iff_isSymmetric] at hA
 
+end IsSelfAdjoint
+
 /-- The orthogonal projection is self-adjoint. -/
-theorem _root_.orthogonalProjection_isSelfAdjoint (U : Submodule 𝕜 E) [CompleteSpace U] :
-    IsSelfAdjoint (U.subtypeL ∘L U.orthogonalProjection) :=
+@[simp]
+theorem _root_.orthogonalProjection_isSelfAdjoint [CompleteSpace E]
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: This needs a deprecation too.
```suggestion
theorem _root_.isSelfAdjoint_starProjection [CompleteSpace E]
```

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 20]
```diff
@@ -288,20 +288,38 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
...
+open ContinuousLinearMap in
+theorem IsStarProjection.hasOrthogonalProjection_range [CompleteSpace E]
+    {p : E →L[𝕜] E} (hp : IsStarProjection p) : (LinearMap.range p).HasOrthogonalProjection :=
+  have := hp.isIdempotentElem.isClosed_range.completeSpace_coe
+  .ofCompleteSpace _
 
-end IsSelfAdjoint
+/-- `U.starProjection` is a star projection. -/
+@[simp]
+theorem orthogonalProjection_isStarProjection [CompleteSpace E] {U : Submodule 𝕜 E}
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]:
```suggestion
theorem isStarProjection_orthogonalProjection [CompleteSpace E] {U : Submodule 𝕜 E}
```

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 21]
```diff
@@ -288,20 +288,38 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
...
+    [U.HasOrthogonalProjection] : IsStarProjection U.starProjection :=
+  ⟨by ext; simp [Submodule.starProjection], orthogonalProjection_isSelfAdjoint U⟩
+
+/-- An operator is a star projection if and only if it is an orthogonal projection. -/
+theorem isStarProjection_iff_eq_orthogonalProjection [CompleteSpace E] {p : E →L[𝕜] E} :
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]:
```suggestion
theorem isStarProjection_iff_eq_starProjection_range [CompleteSpace E] {p : E →L[𝕜] E} :
```

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 22]
```diff
@@ -129,10 +129,9 @@ theorem IsPositive.adjoint_conj {T : E →L[𝕜] E} (hT : T.IsPositive) (S : F
   rw [adjoint_adjoint]
 
 theorem IsPositive.conj_orthogonalProjection (U : Submodule 𝕜 E) {T : E →L[𝕜] E} (hT : T.IsPositive)
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: plus a deprecation
```suggestion
theorem IsPositive.conj_starProjection (U : Submodule 𝕜 E) {T : E →L[𝕜] E} (hT : T.IsPositive)
```

File: Mathlib/Analysis/InnerProductSpace/Projection.lean [hunk 23]
```diff
@@ -475,6 +475,12 @@ theorem orthogonalProjectionFn_eq (v : E) :
     K.orthogonalProjectionFn v = (K.orthogonalProjection v : E) :=
   rfl
 
+/-- The orthogonal projection onto a subspace as a map from the full space to itself,
+as opposed to `Submodule.orthogonalProjection`, which maps into the subtype. This
+version is important as it satisfies `IsStarProjection`. -/
+def starProjection (U : Submodule 𝕜 E) [U.HasOrthogonalProjection] :
+    E →L[𝕜] E := U.subtypeL ∘L U.orthogonalProjection
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Projection.lean:483]: There's a few `simp` lemmas missing. Potentially the last one can wait for the next PR.
```lean
@[simp]
lemma range_starProjection (U : Submodule 𝕜 E) [U.HasOrthogonalProjection] :
    LinearMap.range U.starProjection = U :=
  sorry

@[simp]
lemma ker_starProjection (U : Submodule 𝕜 E) [U.HasOrthogonalProjection] :
    LinearMap.ker U.starProjection = Uᗮ :=
  sorry

@[simp]
lemma starProjection_apply_mem (U : Submodule 𝕜 E) [U.HasOrthogonalProjection] (x : E) :
    U.starProjection x ∈ U :=
  sorry
```

File: Mathlib/Analysis/InnerProductSpace/Projection.lean [hunk 24]
```diff
@@ -581,6 +601,9 @@ theorem orthogonalProjection_map_apply {E E' : Type*} [NormedAddCommGroup E]
 @[simp]
 theorem orthogonalProjection_bot : (⊥ : Submodule 𝕜 E).orthogonalProjection = 0 := by ext
 
+lemma starProjection_bot : (⊥ : Submodule 𝕜 E).starProjection = 0 := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Projection.lean:636]:
```suggestion
@[simp]
lemma starProjection_bot : (⊥ : Submodule 𝕜 E).starProjection = 0 := by
```

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 25]
```diff
@@ -288,20 +288,41 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
...
+    IsSelfAdjoint U.starProjection :=
   U.orthogonalProjection_isSymmetric.isSelfAdjoint
 
-theorem conj_orthogonalProjection {T : E →L[𝕜] E} (hT : IsSelfAdjoint T) (U : Submodule 𝕜 E)
-    [CompleteSpace U] :
-    IsSelfAdjoint
-      (U.subtypeL ∘L U.orthogonalProjection ∘L T ∘L U.subtypeL ∘L U.orthogonalProjection) := by
-  rw [← ContinuousLinearMap.comp_assoc]
-  nth_rw 1 [← (orthogonalProjection_isSelfAdjoint U).adjoint_eq]
-  exact hT.adjoint_conj _
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean:302]: I realize you've likely deleted this because I said to do so. But probably we should instead do:
```lean
theorem conj_starProjection {T : E →L[𝕜] E} (hT : IsSelfAdjoint T)
    (U : Submodule 𝕜 E) [U.HasOrthogonalProjection] :
    IsSelfAdjoint (U.starProjection ∘L T ∘L U.starProjection) :=
  show IsSelfAdjoint (U.starProjection * T * U.starProjection)
    from hT.conjugate_self <| isSelfAdjoint_starProjection U

@[deprecated (since := "2025-07-05")] alias conj_orthogonalProjection := conj_starProjection

end IsSelfAdjoint
```
after the deprecation of `orthogonalProjection_isSelfAdjoint`. And the end of the section should be moved down here.

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 26]
```diff
@@ -288,20 +288,41 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
...
   rwa [← ContinuousLinearMap.isSelfAdjoint_iff_isSymmetric] at hA
 
+end IsSelfAdjoint
+
 /-- The orthogonal projection is self-adjoint. -/
-theorem _root_.orthogonalProjection_isSelfAdjoint (U : Submodule 𝕜 E) [CompleteSpace U] :
-    IsSelfAdjoint (U.subtypeL ∘L U.orthogonalProjection) :=
+@[simp]
+theorem _root_.isSelfAdjoint_starProjection [CompleteSpace E]
+    (U : Submodule 𝕜 E) [U.HasOrthogonalProjection] :
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: because if you move the end of the section (which is why this originally had `_root_.`) then `[CompleteSpace E]` is in scope again.
```suggestion
theorem _root_.isSelfAdjoint_starProjection (U : Submodule 𝕜 E) [U.HasOrthogonalProjection] :
```

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 27]
```diff
@@ -288,20 +288,41 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
     (hA : (A : E →ₗ[𝕜] E).IsSymmetric) : IsSelfAdjoint A := by
   rwa [← ContinuousLinearMap.isSelfAdjoint_iff_isSymmetric] at hA
 
+end IsSelfAdjoint
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: To go with the other suggestions
```suggestion
```

File: Mathlib/Analysis/InnerProductSpace/Projection.lean [hunk 28]
```diff
@@ -475,6 +476,20 @@ theorem orthogonalProjectionFn_eq (v : E) :
...
   rfl
 
+/-- The orthogonal projection onto a subspace as a map from the full space to itself,
+as opposed to `Submodule.orthogonalProjection`, which maps into the subtype. This
+version is important as it satisfies `IsStarProjection`. -/
+def starProjection (U : Submodule 𝕜 E) [U.HasOrthogonalProjection] :
+    E →L[𝕜] E := U.subtypeL ∘L U.orthogonalProjection
+
+lemma starProjection_apply (U : Submodule 𝕜 E) [U.HasOrthogonalProjection] (v : E) :
+    U.starProjection v = U.orthogonalProjection v := rfl
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Projection.lean:486]: Not for this PR, but I wonder if in the follow up PR we should have the reverse direction of this as a `simp` lemma.

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 29]
```diff
@@ -288,20 +288,41 @@ theorem _root_.LinearMap.IsSymmetric.isSelfAdjoint {A : E →L[𝕜] E}
...
-end IsSelfAdjoint
+open ContinuousLinearMap in
+theorem IsIdempotentElem.hasOrthogonalProjection_range [CompleteSpace E]
+    {p : E →L[𝕜] E} (hp : IsIdempotentElem p) : (LinearMap.range p).HasOrthogonalProjection :=
+  have := hp.isClosed_range.completeSpace_coe
+  .ofCompleteSpace _
+
+/-- `U.starProjection` is a star projection. -/
+@[simp]
+theorem isStarProjection_orthogonalProjection [CompleteSpace E] {U : Submodule 𝕜 E}
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]:
```suggestion
theorem isStarProjection_starProjection [CompleteSpace E] (U : Submodule 𝕜 E)
```

File: Mathlib/Analysis/InnerProductSpace/Projection.lean [hunk 30]
```diff
@@ -541,6 +566,20 @@ theorem orthogonalProjection_eq_self_iff {v : E} : (K.orthogonalProjection v : E
     simp
   · simp
 
+@[simp]
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Projection.lean]:
```suggestion
  · simp

variable (K) in
@[simp]
lemma isIdempotentElem_starProjection : IsIdempotentElem K.starProjection :=
  ContinuousLinearMap.ext fun x ↦ orthogonalProjection_eq_self_iff.mpr <| by simp

@[simp]
```

File: Mathlib/Analysis/InnerProductSpace/Projection.lean [hunk 31]
```diff
@@ -1443,3 +1493,15 @@ theorem maximal_orthonormal_iff_basis_of_finiteDimensional (hv : Orthonormal 
...
+theorem ContinuousLinearMap.IsIdempotentElem.range_eq_ker {p : E →L[𝕜] E}
+    (hp : IsIdempotentElem p) : LinearMap.range p = LinearMap.ker (1 - p) :=
+  have hp' : IsIdempotentElem (LinearMapClass.linearMap p) :=
+    congr(LinearMapClass.linearMap $(hp.eq))
+  hp'.range_eq_ker
+
+open ContinuousLinearMap in
+theorem ContinuousLinearMap.IsIdempotentElem.isClosed_range {p : E →L[𝕜] E}
+    (hp : IsIdempotentElem p) : IsClosed (LinearMap.range p : Set E) :=
+  hp.range_eq_ker ▸ ContinuousLinearMap.isClosed_ker (1 - p)
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Projection.lean]: The point was for you to generalize these and find the right place to put them. These don't belong here (but `Mathlib.Topology.Algebra.Module.LinearMap` works), and they can be generalized to (and also have the kernel to range version instead):
```suggestion
variable {R M : Type*} [Ring R] [TopologicalSpace M]
  [AddCommGroup M] [Module R M] [IsTopologicalAddGroup M] 

open LinearMap in
theorem ContinuousLinearMap.IsIdempotentElem.range_eq_ker
    {p : M →L[R] M} (hp : IsIdempotentElem p) :
    LinearMap.range p = LinearMap.ker (1 - p) :=
  have hp' : IsIdempotentElem (LinearMapClass.linearMap p) :=
    congr(LinearMapClass.linearMap $(hp.eq))
  hp'.range_eq_ker
  
open ContinuousLinearMap in
theorem ContinuousLinearMap.IsIdempotentElem.ker_eq_range
    {p : M →L[R] M} (hp : IsIdempotentElem p) :
    LinearMap.ker p = LinearMap.range (1 - p) := by
  simpa using hp.one_sub.range_eq_ker.symm

open ContinuousLinearMap in
theorem ContinuousLinearMap.IsIdempotentElem.isClosed_range [T1Space M] {p : M →L[R] M}
    (hp : IsIdempotentElem p) : IsClosed (LinearMap.range p : Set M) :=
  hp.range_eq_ker ▸ ContinuousLinearMap.isClosed_ker (1 - p)
```

File: Mathlib/Analysis/InnerProductSpace/Projection.lean [hunk 32]
```diff
@@ -552,6 +591,13 @@ theorem orthogonalProjection_eq_zero_iff {v : E} : K.orthogonalProjection v = 0
 theorem ker_orthogonalProjection : LinearMap.ker K.orthogonalProjection = Kᗮ := by
   ext; exact orthogonalProjection_eq_zero_iff
 
+@[simp]
+lemma ker_starProjection (U : Submodule 𝕜 E) [U.HasOrthogonalProjection] :
+    LinearMap.ker U.starProjection = Uᗮ := by
+  ext x
+  simp only [starProjection, LinearMap.mem_ker, ContinuousLinearMap.coe_comp', coe_subtypeL',
+    coe_subtype, Function.comp_apply, ZeroMemClass.coe_eq_zero, orthogonalProjection_eq_zero_iff]
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Projection.lean]: If you move the results at the end of this file like I suggest, then you can do:
```suggestion
open ContinuousLinearMap in
@[simp]
lemma ker_starProjection (U : Submodule 𝕜 E) [U.HasOrthogonalProjection] :
    LinearMap.ker U.starProjection = Uᗮ := by
  rw [(isIdempotentElem_starProjection U).ker_eq_range, ← starProjection_orthogonal',
    range_starProjection]
```

File: Mathlib/LinearAlgebra/Projection.lean [hunk 33]
```diff
@@ -425,6 +426,12 @@ theorem eq_conj_prod_map' {f : E →ₗ[R] E} (h : IsProj p f) :
 
 end IsProj
 
+theorem IsIdempotentElem.range_eq_ker {E : Type*} [AddCommGroup E] [Module S E]
+    {p : E →ₗ[S] E} (hp : IsIdempotentElem p) : LinearMap.range p = LinearMap.ker (1 - p) :=
+  le_antisymm
+    (LinearMap.range_le_ker_iff.mpr hp.one_sub_mul_self)
+    fun x hx ↦ ⟨x, by simpa [sub_eq_zero, eq_comm (a := x)] using hx⟩
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Projection.lean:433]: You can add
```lean
theorem IsIdempotentElem.ker_eq_range {E : Type*} [AddCommGroup E] [Module S E]
    {p : E →ₗ[S] E} (hp : IsIdempotentElem p) : LinearMap.ker p = LinearMap.range (1 - p) := by
  simpa using hp.one_sub.range_eq_ker.symm
```

**Comment by j-loreaux** [comment]
don't forget to remove `awaiting-author` when you're ready for review again.

**Comment by themathqueen** [comment]
@j-loreaux I can't remove labels on PRs. There is no option for me to remove `awaiting-author`.

File: Mathlib/Analysis/InnerProductSpace/Projection.lean (hunk 28 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/Projection.lean:486]: possibly, possibly

**Comment by j-loreaux** [comment]
You can comment `-awaiting-author` on the PR and a bot will remove the label for you.

**Comment by j-loreaux** [comment]
Thanks!

bors merge
